US07652049B2
A suspension of 10% Pd/C (24 mg) in a solution of 1-(4-methylphenyl)-2-nitroethanol (50 mg, 0.276 mmol) in absolute EtOH (1 mL) was stirred overnight at room temperature under 15 psi of H2. The reaction mixture was filtered through a pad of Celite and the filtrate was concentrated in vacuo to afford 2-amino-1-(4-methylphenyl)ethanol as an oil. LCMS calc.=152.10; found=152 (M+1)+. 1H NMR (CDCl3, 500 MHz) δ 7.20 (d, J=8.0 Hz, 2H), 7.13 (d, J=8.0 Hz, 2H), 4.57 (dd, J=7.9, 3.9 Hz, 1H), 2.86 (dd, J=12.7, 3.9 Hz, 1H), 2.76 (dd, J=12.7, 7.9 Hz, 1H), 2.33 (s, 3H).

reactant | 1-(4-methylphenyl)-2-nitroethanol | 0.276 mmol, 50 mg | CC1=CC=C(C=C1)C(C[N+](=O)[O-])O | C9H11NO3
solvent | EtOH | 1 mL | CCO | C2H6O
catalyst | Pd/C | 24 mg | [Pd] | Pd
product | 2-amino-1-(4-methylphenyl)ethanol | NCC(O)C1=CC=C(C=C1)C | C9H13NO
